US04927958
A solution of 4 g (11.5 mmol) of (E)-6-(1-ethoxy-ethoxy)-1-(3,4,5-trimethoxyphenyl)-1-hexen-4-yn-3-one in 40 ml of ethanol/tetrahydrofuran (1:1) was treated at room temperature with 0.4 g (1.6 mmol) of pyridinium (toluene-4-sulphonate) and was stirred at room temperature for 20 hours. The reaction mixture was diluted with water and extracted twice with ether. The combined organic phases were dried over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 200 g of silica gel (elution agent methylene chloride/ether 4:1) and was subsequently crystallized from methylene chloride/ether. There was obtained (E)-6-hydroxy-1-(3,4,5-trimethoxyphenyl)-1-hexen-4-yn-3-one of melting point 113°-115°.

reactant | (E)-6-(1-ethoxy-ethoxy)-1-(3,4,5-trimethoxyphenyl)-1-hexen-4-yn-3-one | 11.5 mmol, 4 g | C(C)OC(C)OCC#CC(/C=C/C1=CC(=C(C(=C1)OC)OC)OC)=O | C19H24O6
reactant | pyridinium (toluene-4-sulphonate) | 1.6 mmol, 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol tetrahydrofuran | 40 ml | C(C)O.O1CCCC1
solvent | water | O | H2O
product | (E)-6-hydroxy-1-(3,4,5-trimethoxyphenyl)-1-hexen-4-yn-3-one | OCC#CC(/C=C/C1=CC(=C(C(=C1)OC)OC)OC)=O | C15H16O5
